US07368461B2
2a. 4-(5-Chloro-pentanoylamino)-piperidine-1-carboxylic acid benzyl ester
4-Amino-piperidine-1-carboxylic acid benzyl ester (12.0 g) in dichloromethane (100 mL) was added to pyridine (7.2 mL). The solution was cooled to 0° C. then 5-chlorovaleryl chloride (7.3 g) was added drop wise to the reaction. The reaction was warmed to room temperature. After 5 hours the reaction was diluted with dichloromethane and washed with water (1×), saturated aqueous copper sulfate (2×), and water (1×). The organic extracts were dried and evaporated. The resulting solids were suspended in ether, filtered, and then placed under high vacuum to give the title compound as a white solid (15.6 g). Rf=0.60 in ethyl acetate.

reactant | 4-Amino-piperidine-1-carboxylic acid benzyl ester | 12.0 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)N | C13H18N2O2
reactant | pyridine | 7.2 mL | N1=CC=CC=C1 | C5H5N
reactant | 5-chlorovaleryl chloride | 7.3 g | ClCCCCC(=O)Cl | C5H8Cl2O
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 4-(5-Chloro-pentanoylamino)-piperidine-1-carboxylic acid benzyl ester | 15.6 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)NC(CCCCCl)=O | C18H25ClN2O3
